US04743616
Synthesis of N-phenylacetyl-proline methyl ester (Compound No. 2)
Proline methyl ester hydrochloride (3.3 g) and triethylamine (2.8 ml) were suspended in dry methylene chloride (30 ml). Under cooling, phenylacetylchloride (3.4 g) and triethylamine (3.1 ml) were simultaneously added dripwise to the suspension. Thereafter, the mixture was stirred at room temperature for 2 hours, and the reaction mixture was washed successively with water, 1N HCl, water, saturated aqueous sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, the solvent was distilled off under vacuum. The resulting crude product was purified by medium-pressure liquid column chromatography on silica gel (solvent: carbon tetrachloride) to obtain the end compound an an oil (3.7 g).

reactant | Proline methyl ester hydrochloride | 3.3 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetylchloride | 3.4 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-phenylacetyl-proline methyl ester | 3.7 g | COC([C@H]1N(CCC1)C(CC1=CC=CC=C1)=O)=O | C14H17NO3
